US07268152B2
To a solution of the 2.28 g (5.36 mmol) of the above 4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylpentanoic acid ethyl ester in 30 mL of dry THF was added 705 mg (18.57 mmol) of lithium aluminum hydride in several portions. The mixture foamed and became slightly exothermic and was then warmed at reflux for 1.5 hours. The mixture was then cooled and cautiously quenched with water dropwise, dried over magnesium sulfate, filtered through diatomaceous earth, and concentrated in vacuo to afford 1.82 g of crude product as a white solid. Trituration with hexanes followed by filtration afforded 1.49 g (72%) of 4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-4-methyl-2-trifluoromethylpentane-1,2-diol as a white solid, m.p. 124° C.-128° C.

reactant | 4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylpentanoic acid ethyl ester | 5.36 mmol, 2.28 g | C(C)OC(C(CC(C)(C)C1=CC(=CC=2CCOC21)Br)(C(F)(F)F)O)=O | C17H20BrF3O4
reactant | lithium aluminum hydride | 18.57 mmol, 705 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(5-bromo-2,3-dihydrobenzofuran-7-yl)-4-methyl-2-trifluoromethylpentane-1,2-diol | 1.49 g, 72% | BrC=1C=C(C2=C(CCO2)C1)C(CC(CO)(O)C(F)(F)F)(C)C | C15H18BrF3O3
